US07763584B2
To a solution of ethyl 1(R)-[1-[2(S)-(tert-butoxycarbonylamino)-3-[N-cyclopropyl-N-(pent-4-enyl)amino]propanoyl]-4(R)-(tert-butyldimethylsilyloxy)pyrrolidine-2(S)-carboxamido]-2(S)-vinylcyclopropanecarboxylate (1.45 g, 2.14 mmoL) in 1 L of methylene chloride was added 181 mg (0.21 mmoL) of Grubb's 2nd generation catalyst [(1,3-Bis-(2,4,6-trimethylphenyl)-2-imidazolidinylidene)dichloro(phenylmethylene)(tricyclohexylphosphine)ruthenium]. The mixture was heated at reflux for 1 h. A second fraction of the catalyst (50 mg, 0.058 mmol) was added, and the mixture was stirred at rt overnight. The residue was concentrated in vacuo, and then purified by flash chromatography eluting with 50% ether/hexane to give 0.84 g (62%) of (1S,4R,6S,14S,18R)-7-cis-14-tert-Butoxycarbonylamino-18-(tert-butyldimethylsilyloxy)-2,15-dioxo-3,12,16-triazatricyclo[14.3.0.04,6]nonadec-7-ene-4-carboxylic acid, ethyl ester as a white solid: LC-MS (Phenomenex 10 μm C18 HPLC column: 3.0×50 mm length. Gradient: 100% Solvent A/0% Solvent B to 0% Solvent A/100% Solvent B. Gradient time: 2 min. Hold time: 1 min. Flow rate: 5 mL/min. Detector Wavelength: 220 nM. Solvent A: 10% MeOH/90% H2O/0.1% TFA. Solvent B: 10% H2O/90% MeOH/0.1% TFA.) (Retention time: 2.43 min), MS m/z 649 (M++1).

reactant | ethyl 1(R)-[1-[2(S)-(tert-butoxycarbonylamino)-3-[N-cyclopropyl-N-(pent-4-enyl)amino]propanoyl]-4(R)-(tert-butyldimethylsilyloxy)pyrrolidine-2(S)-carboxamido]-2(S)-vinylcyclopropanecarboxylate | 1.45 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)N1[C@@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)C(=O)N[C@]1([C@@H](C1)C=C)C(=O)OCC)CN(CCCC=C)C1CC1 | C35H60N4O7Si
solvent | methylene chloride | 1 L | C(Cl)Cl | CH2Cl2
catalyst | (1,3-Bis-(2,4,6-trimethylphenyl)-2-imidazolidinylidene)dichloro(phenylmethylene)(tricyclohexylphosphine)ruthenium | CC1=CC(=C(C(=C1)C)N2CCN(C2=[Ru](=CC3=CC=CC=C3)(Cl)Cl)C4=C(C=C(C=C4C)C)C)C.C1CCC(CC1)P(C2CCCCC2)C3CCCCC3
product | (1S,4R,6S,14S,18R)-7-cis-14-tert-Butoxycarbonylamino-18-(tert-butyldimethylsilyloxy)-2,15-dioxo-3,12,16-triazatricyclo[14.3.0.04,6]nonadec-7-ene-4-carboxylic acid, ethyl ester | 0.84 g, 62% | C(C)(C)(C)OC(=O)N[C@H]1CNCCC\C=C/[C@@H]2C[C@]2(NC([C@@H]2C[C@H](CN2C1=O)O[Si](C)(C)C(C)(C)C)=O)C(=O)OCC | C30H52N4O7Si
